US05587515
Methyl acrylate (344 g; 4 moles) was placed in a flask and 642.4 g (8.8 moles) of n-butylamine were added thereto while stirring by cooling with water to keep it at not higher than 50° C. After two hours, the addition reaction was complete but an impurity, namely butoxyamine-N,N-bis-3-propionic acid methyl ester, was produced in an amount of about 12% in terms of the ratio of the area of its peak that of to methyl beta-butylaminopropionate on a gas chromatogram.

reactant | Methyl acrylate | 4 moles, 344 g | C(C=C)(=O)OC | C4H6O2
reactant | n-butylamine | 8.8 moles, 642.4 g | C(CCC)N | C4H11N
solvent | water | O | H2O
product | methyl beta-butylaminopropionate | C(CCC)NCCC(=O)OC | C8H17NO2
